US07199239B2
(4-{[(2,4′-Dimethyl-1,1′-biphenyl-3-yl)(propyl)amino]methyl}-2-methylphenoxy)acetic acid
Prepared from 4-methylphenylboronic acid and ethyl (4-{[(3-bromo-2-methylphenyl)(propyl)amino]methyl}-2-methylphenoxy)acetate using the procedure described for Example 25 (Method A).

reactant | 4-methylphenylboronic acid | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | ethyl (4-{[(3-bromo-2-methylphenyl)(propyl)amino]methyl}-2-methylphenoxy)acetate | BrC=1C(=C(C=CC1)N(CCC)CC1=CC(=C(OCC(=O)OCC)C=C1)C)C | C22H28BrNO3
product | (4-{[(2,4′-Dimethyl-1,1′-biphenyl-3-yl)(propyl)amino]methyl}-2-methylphenoxy)acetic acid | CC1=C(C=CC=C1N(CCC)CC1=CC(=C(OCC(=O)O)C=C1)C)C1=CC=C(C=C1)C | C27H31NO3
